* source PROJECT 3
V_V3         N00265 0 1Vdc
R_R1         N00265 N00326  8k  
R_R2         N00326 N00603  320k  
R_Rout         N001261 N00603  2k  
R_Rin         N00326 0  400k  
E_U1         N001261 0 VALUE {LIMIT(V(0,N00326)*5E5,-15V,+15V)}
