* source PSPICE 1
R_R1         N00617 0  5  
R_R4         N00772 N01078  3  
R_R2         N00617 N00772  4  
R_R5         N00617 N01078  1  
R_R3         N00617 N01078  2  
I_I3         N00772 N01078 DC 1Adc  
I_I2         0 N01078 DC 0.1Adc  
I_I1         0 N00772 DC 10Adc  
